US07504508B2
To a solution of N-[(2S,4R)-1-(4-aminobenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]-N-(4-chlorophenyl)acetamide (208 mg, 0.48 mmol) in methylene chloride (4.0 mL) at 0° C. was added methanesulphonic anhydride (175 mg, 1.01 mmol) and N,N-diisopropylethylamine (0.460 mL, 2.63 mmol). The reaction was warmed to room temperature and stirred for 4 days. (Analysis by LCMS indicated a mixture of starting aniline, mono-sulfonamide, and bis-sulfonamide). Additional methanesulphonic anhydride (170 mg, 0.98 mmol) was added and the reaction was stirred an additional 2 days at room temperature. The resulting reaction was diluted with dichloromethane (25 mL) and poured into a 1:1 mixture of water and brine (25 mL). The organic layer was separated, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to afford crude N-((2S,4R)-1-{4-[bis(methylsulfonyl)amino]benzoyl}-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-N-(4-chlorophenyl)acetamide (273 mg) as a yellow foam. The crude material was used directly in subsequent reactions.

reactant | N-[(2S,4R)-1-(4-aminobenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]-N-(4-chlorophenyl)acetamide | 0.48 mmol, 208 mg | NC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(C)=O)C2=CC=C(C=C2)Cl)C)C=C1 | C25H24ClN3O2
reactant | methanesulphonic anhydride | 1.01 mmol, 175 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | N,N-diisopropylethylamine | 2.63 mmol, 0.460 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | methanesulphonic anhydride | 0.98 mmol, 170 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | methylene chloride | 4.0 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | brine | 25 mL | [Cl-].[Na+].O
solvent | water | O | H2O
product | N-((2S,4R)-1-{4-[bis(methylsulfonyl)amino]benzoyl}-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-N-(4-chlorophenyl)acetamide | 273 mg | CS(=O)(=O)N(C1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(C)=O)C2=CC=C(C=C2)Cl)C)C=C1)S(=O)(=O)C | C27H28ClN3O6S2
